US08431695B2
Preparation of 2-{4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}ethanol
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine (38 mg, 0.065 mmol) in 95% aqueous ethanol (300 μL) was added concentrated hydrochloric acid (6 μL). The reaction was stirred (rt) for 48 h. The mixture was basified (pH 9) with, the addition of saturated aqueous NaHCO3 solution and was evaporated to remove volatiles. The aqueous mixture was extracted with ethyl acetate (3×20 mL) and the combined organics were washed with brine, dried (Na2SO4) and concentrated. The crude material was triturated with Et2O to afford 18 mg (61%) of the desired product as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 7.94 (s, 1 H), 7.85 (d, 1 H), 7.64 (s, 1H), 7.54 (s, 1 H), 7.46-7.33 (m, 5 H), 7.20 (d, 1 H), 6.63 (s, 1 H), 5.70 (s, 2 H), 3.60-3.51 (m, 2 H), 3.18-3.08 (m, 1 H), 3.06-2.98 (m, 2 H), 2.46 (t, 2 H), 2.14 (t, 2H), 2.02 (d, 2 H), 1.82-1.68 (m, 2 H); ES-MS m/z 468.34 [M+H]+, HPLC RT (min) 0.82.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.065 mmol, 38 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)CCO[Si](C)(C)C(C)(C)C | C33H43N7OSi
reactant | hydrochloric acid | 6 μL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 300 μL | C(C)O | C2H6O
product | 2-{4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}ethanol | 18 mg, 61% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H29N7O
